US06962923B2
5-amino-1-(2-hydroxyethyl)-4-(4-methylphenyl)-1-H-pyrazol-3-ol
2-Hydroxyethylhydrazine (5.87 g) was added dropwise over 5 minutes to a stirred solution of ethyl cyano-(4-methylphenyl)acetate (Synthesis, 1985, 5, 506) (10.14 g) in absolute ethanol (200 ml) and the resulting mixture was then heated under reflux overnight. The reaction mixture was cooled to room temperature and the ethanol was evaporated under reduced pressure. The resulting yellow/orange oil was triturated with methanol and the solid was isolated by filtration to give the title compound as a white solid (3.1 g).

reactant | 2-Hydroxyethylhydrazine | 5.87 g | OCCNN | C2H8N2O
reactant | ethyl cyano-(4-methylphenyl)acetate | 10.14 g | C(#N)C(C(=O)OCC)C1=CC=C(C=C1)C | C12H13NO2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 5-amino-1-(2-hydroxyethyl)-4-(4-methylphenyl)-1-H-pyrazol-3-ol | 3.1 g | NC1=C(C(=NN1CCO)O)C1=CC=C(C=C1)C | C12H15N3O2
